US05859007
2-[3-(1H-indol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide
To a stirring solution of 210 mg (0.32 mmol) of 2-[3-(N-tert-butoxycarbonyl-indol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide, prepared as in Intermediate 38, in 4 mL of DMF at 0° C. is added 19 mg (0.48 mmol, 1.5 equiv) of sodium hydride (60% dispersion in mineral oil). The resulting solution is stirred 5 min, then 30 mL (0.48 mmol, 1.5 equiv) of methyl iodide is added. The reaction mixture is stirred 2 h at RT and then heated to 50° C. for 14 h, then quenched with 1 mL H2O. The reaction mixture is diluted with 40 mL EtOAc and washed with 40 mL H2O. The organic layer is dried (MgSO4) and the solvents removed in vacuo. The crude material is then dissolved in 2 mL of dichloromethane, 2 mL of TFA is added, and the reaction mixture is stirred 1 h at RT. The volatiles are removed in vacuo and the resulting crude oil purified via MPLC using a Si60 silica gel column and hexane/EtOAc 5/2 as eluent followed by lyophilization afforded 37 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ8.11 (s, 1H), 7.61-7.00 (m, 18H), 6.76 (d, 1H, J=5.1), 5.10 (m, 1H), 4.50 (d, 1H, J=16.4), 3.95 (d, 1H, J=16.4), 2.91 (dd, 2H), 1.58 (s, 3H), 1.14 (m, 6H); low resolution MS (FAB)m/e 571 (MH+).

reactant | 2-[3-(N-tert-butoxycarbonyl-indol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide | 0.32 mmol, 210 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H40N4O5
reactant | sodium hydride | 0.48 mmol, 19 mg, 1.5 equiv | [H-].[Na+]
reactant | methyl iodide | 0.48 mmol, 30 mL, 1.5 equiv | CI | CH3I
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[3-(1H-indol-3-ylmethyl)-3-methyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-phenyl acetamide | 37 mg | N1C=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=CC=C1)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C36H34N4O3
